US06465485B1
6-Cyanoindole-2-carboxylic Acid
A solution of 4-cyanobenzaldehyde (1.27 g, 9.69 mmol) and ethyl azidoacetate (5 g, 38.76 mmol) in methanol (6 ml) was added dropwise over 0.16 h to a stirred solution of sodium methoxide (2.143 g, 39.7 mmol) in methanol (24 ml) at −8° C. The reaction was stirred with ice cooling for a further 3 h before being poured into ice/water (500 ml). The precipitate was filtered, washed with water and dried in vacuo. A sample of the residue (0.55 g) was dissolved in xylene (15 ml) and added dropwise to refluxing xylene (35 ml) over 0.75 h. After a further 1.5 h reflux the mixture was cooled and the precipitate filtered, washed with a small amount of xylene and dried in vacuo. The residue was dissolved in aqueous methanol (20 ml, 1:1) and sodium hydroxide (1 equivalent) added. The mixture was stirred at room temperature for 18 h, concentrated to half volume and poured into water (50 ml). The resultant solution was washed with ethyl acetate (50 ml) and the aqueous layer acidified with 2N HCl. The precipitate was filtered, washed with water and dried in vacuo to afford the title compound as a pale yellow solid (0.209 g, 11%).

reactant | 4-cyanobenzaldehyde | 9.69 mmol, 1.27 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | ethyl azidoacetate | 38.76 mmol, 5 g | N(=[N+]=[N-])CC(=O)OCC | C4H7N3O2
reactant | sodium methoxide | 39.7 mmol, 2.143 g | C[O-].[Na+]
reactant | sodium hydroxide | 1 equivalent | [OH-].[Na+]
solvent | methanol | 6 ml | CO | CH4O
solvent | methanol | 24 ml | CO | CH4O
product | 6-Cyanoindole-2-carboxylic Acid | 0.209 g, 11% | C(#N)C1=CC=C2C=C(NC2=C1)C(=O)O | C10H6N2O2
